US04029657
4-Butyl-6,7-dichloro-2,3-dihydro-pyrazino(2,3-b)(1,4)oxazine
A mixture of tetrachloropyrazine (21.8 g, 0.1 mol), n-butylaminoethanol (11.7 g, 0.1 mol), and potassium carbonate (28 g, 0.2 mol) were heated to 80° in 225 ml of dioxane and 50 ml of water for 24 hours. After extraction with CH2Cl2 and concentration with rotary evaporation, 30 g of an oil characterized by nmr as the N-substituted product was obtained. An attempt to distill 5 g of this material led to decomposition. The rest of the material was dissolved in 200 ml of benzene and refluxed for 2 hours with crushed KOH (10 g, 85% assay, 0.15 mol). The mixture was partitioned between water and CH2Cl2. The organic layer was dried (MgSO4) and rotary evaporated to give a crude oil. This was distilled two times on a Kugelrohr apparatus (b.p. about 130° at 0.5 mm Hg) to give 12.5 g (48% yield) of the title product.

reactant | tetrachloropyrazine | 0.1 mol, 21.8 g | ClC1=C(N=C(C(=N1)Cl)Cl)Cl | C4Cl4N2
reactant | n-butylaminoethanol | 0.1 mol, 11.7 g | C(CCC)NC(C)O | C6H15NO
reactant | potassium carbonate | 0.2 mol, 28 g | C([O-])([O-])=O.[K+].[K+]
reactant | KOH | 0.15 mol, 10 g | [OH-].[K+]
solvent | dioxane | 225 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 4-Butyl-6,7-dichloro-2,3-dihydro-pyrazino(2,3-b)(1,4)oxazine | 12.5 g, 48% yield | C(CCC)N1C2=C(OCC1)N=C(C(=N2)Cl)Cl | C10H13Cl2N3O
